US09353108B2
B) Benzyl 4-(5-oxo-5,7,8,9-tetrahydro-6H-pyrido[3,2-c]azepin-6-yl)piperidine-1-carboxylate
A 2 M toluene solution (14.6 mL) of trimethylaluminum was added at 0° C. to a mixture of ethyl 2-(3-((1-((benzyloxy)carbonyl)piperidin-4-yl)amino)propyl)nicotinate (2.4 g) and dichloromethane (60 mL), and the resultant mixture was stirred at room temperature for 36 hours. Water was added to the reaction mixture, and then, the mixture was neutralized by the addition of hydrochloric acid. The organic layer was separated, and then, the aqueous layer was subjected to extraction with dichloromethane. Combined organic layers were washed with water and saturated saline and dried over sodium sulfate, and then, the solvent was distilled off under reduced pressure. The obtained residue was purified by silica gel column chromatography (methanol/dichloromethane) to obtain the title compound (1.2 g).

reactant | toluene | 2 M, 14.6 mL | C1(=CC=CC=C1)C | C7H8
reactant | trimethylaluminum | C[Al](C)C
reactant | ethyl 2-(3-((1-((benzyloxy)carbonyl)piperidin-4-yl)amino)propyl)nicotinate | 2.4 g | C(C1=CC=CC=C1)OC(=O)N1CCC(CC1)NCCCC1=C(C(=O)OCC)C=CC=N1 | C24H31N3O4
reactant | hydrochloric acid | Cl | ClH
solvent | Water | O | H2O
solvent | dichloromethane | 60 mL | ClCCl | CH2Cl2
product | Benzyl 4-(5-oxo-5,7,8,9-tetrahydro-6H-pyrido[3,2-c]azepin-6-yl)piperidine-1-carboxylate | 1.2 g | O=C1N(CCCC2=C1C=CC=N2)C2CCN(CC2)C(=O)OCC2=CC=CC=C2 | C22H25N3O3
